US03939229
To 10 ml. of an aqueous solution containing 0.5 g. of sodium carbonate and 0.25 g. of sodium bicarbonate there is added a solution of 1.0 g. of potassium dichromate in 50 ml. of water, then 60 ml. of triallyl phosphite. The resulting mixture is stirred at 25°-30°C while passing in oxygen for eight hours. The aqueous layer is removed, leaving a 96% yield of substantially pure triallyl phosphate.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | potassium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[K+].[K+]
reactant | triallyl phosphite | P(OCC=C)(OCC=C)OCC=C | C9H15O3P
solvent | oxygen | O=O | O2
solvent | water | O | H2O
product | triallyl phosphate | 96% yield | P(=O)(OCC=C)(OCC=C)OCC=C | C9H15O4P
